US07361671B2
A solution of 4-cyanomethyl-5-methyl-thiophene-2-carboxylic acid (12.3g, 67.9 mmol) in THF (400 mL) is treated with borane-dimethylsulfide complex (7.5 mL, 10 M, 74.7 mmol) dropwise via syringe. The mixture is heated to a gentle reflux for 2 h. After cooling, the mixture is quenched with water and extracted with dichloromethane (3×). The combined organic layers are dried over Na2SO4, filtered and concentrated in vacuo. The resulting residue is purified by flash chromatography (silica gel, 30-50% ethyl acetate in heptane) to give (5-hydroxymethyl-2-methyl-thiophen-3-yl)-acetonitrile (4.7 g, 41.4%) as a white solid. mp 66-68° C.; 1H NMR (CDCl3, 300 MHz) δ 6.83 (s, 1 H), 4.71 (d, J=6.0 Hz, 2 H), 3.56 (s, 2 H), 2.40 (s, 3 H), 1.75 (t, J=6.0 Hz, 1 H).

reactant | 4-cyanomethyl-5-methyl-thiophene-2-carboxylic acid | 67.9 mmol, 12.3g | C(#N)CC=1C=C(SC1C)C(=O)O | C8H7NO2S
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | (5-hydroxymethyl-2-methyl-thiophen-3-yl)-acetonitrile | 4.7 g, 41.4% | OCC1=CC(=C(S1)C)CC#N | C8H9NOS
